US07326791B2
4-(3-aminomethyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide
Prepared analogously to Example 17 from 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide and trifluoroacetic acid. Yield: 55%; Rf value: 0.25 (silica gel; dichloromethane/methanol=9:1); C24H22ClF3N6O (502.93); mass spectrum: (M−H)−=503/505 (chlorine isotope).

reactant | 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide | C(C)(C)(C)OC(=O)NCC1=NN(C2=C1CCC2)C2=C(C=C(C(=O)N[C@@H](C)C1=NC3=C(N1)C=CC(=C3)Cl)C=C2)C(F)(F)F | C29H30ClF3N6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(3-aminomethyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide | Yield: 55% | NCC1=NN(C2=C1CCC2)C2=C(C=C(C(=O)N[C@@H](C)C1=NC3=C(N1)C=CC(=C3)Cl)C=C2)C(F)(F)F | C24H22ClF3N6O
